US05294612
To 60% NaH (5.7 g, 0.14 mol) in THF (150 ml) at -78° C. under argon was added dropwise (1-hydroxy-(3,4-dimethoxyphenylethylidene))malononitrile (34.6 g, 0.14 mol) in THF (100 ml) over 1.25 hours. The reaction mixture was stirred for 2 hours and dimethyl sulfate (26.9 g, 0.21 mol) in THF (50 ml) was added over 30 minutes. The reaction mixture was warmed to room temperature and stirred for 24 hours. The solvents were removed in vacuo and the residue was partitioned between ether and water. The organic layer was separated and the aqueous layer was extracted with ether (3×150 ml). The ether layers were combined and the solvent was removed in vacuo. The residue was purified by column chromatography on silica gel eluting with hexane/ether (6/4) to afford crude (1-methoxy-(3,4-dimethoxyphenylethylidene))malononitrile as a gold oil.

reactant | NaH | 0.14 mol, 5.7 g | [H-].[Na+]
reactant | (1-hydroxy-(3,4-dimethoxyphenylethylidene))malononitrile | 0.14 mol, 34.6 g | OC(CC1=CC(=C(C=C1)OC)OC)=C(C#N)C#N | C13H12N2O3
reactant | dimethyl sulfate | 0.21 mol, 26.9 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (1-methoxy-(3,4-dimethoxyphenylethylidene))malononitrile | COC(CC1=CC(=C(C=C1)OC)OC)=C(C#N)C#N | C14H14N2O3
